US05241107
To a RB flask equipped with magnetic stirrer, condenser and N2 inlet line with bubbler was added methyl, 1,2,3,10b-tetrahydro-1-fluoranthenecarboxylate (Cambridge Chemical, Inc., 202 E. Smith Street, Milwaukee, Wis. 53207, 98.0 g, 0.372 mol), DDQ (Aldrich, 177.0 g, 0.781 mol) and dry PhCH3 (2 L). The reaction mixture was heated at 90° for 10 h, cooled, filtered and concentrated to a 500 mL volume. The crude material was purified on a plug of SiO2 (0.5 kg) using PhCH3 as the eluting solvent. The appropriate fractions were combined and concentrated by rotary evaporation to give a crude pale yellow solid which was recrystallized (CH2Cl2 /hexane), filtered and dried to give 94.5 g (96%) of methyl-1-fluoranthenecarboxylate mp 70°-71°, (C,H).

reactant | 1,2,3,10b-tetrahydro-1-fluoranthenecarboxylate | 0.372 mol, 98.0 g | C1(CCC2=CC=CC=3C4=CC=CC=C4C1C23)C(=O)[O-]
reactant | DDQ | 0.781 mol, 177.0 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | PhCH3 | 2 L | C1(=CC=CC=C1)C | C7H8
product | methyl-1-fluoranthenecarboxylate | 94.5 g, 96% | COC(=O)C1=CC=C2C=CC=C3C4=CC=CC=C4C1=C23 | C18H12O2
